US08242104B2
To a solution of [2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-acetic acid methyl ester (407 mg, 0.43 mmol) in dioxane (1 mL) and water (1 mL) was added lithium hydroxide monohydrate (36 mg, 0.86 mmol) and the reaction mixture stirred at RT for 18 h. Water was added and the reaction mixture extracted with DCM. The aqueous phase was filtered and concentrated in vacuo to give [2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-acetic acid lithium salt (130 mg, 81%). LCMS: RT=2.30 min, [M+H]+=369.

reactant | [2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-acetic acid methyl ester | 0.43 mmol, 407 mg | COC(CNC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)=O | C19H22N6O3
reactant | lithium hydroxide monohydrate | 0.86 mmol, 36 mg | O.[OH-].[Li+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | [2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-acetic acid lithium salt | 130 mg, 81% | [Li+].C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)NCC(=O)[O-] | InChI=1S/C18H20N6O3.Li/c1-11(2)24-18(20-10-21-24)14-9-23-5-6-27-15-7-12(19-8-16(25)26)3-4-13(15)17(23)22-14;/h3-4,7,9-11,19H,5-6,8H2,1-2H3,(H,25,26);/q;+1/p-1
